US08012966B2
2-[5-Fluoro-6-(4-fluoro-benzylamino)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-3-(4-fluoro-phenyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
The title compound was prepared under the same conditions as described in Example 46 with 3-(4-fluoro-phenyl)-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 5-fluoro-6-(4-fluoro-benzylamino)-1,3-dihydro-indol-2-one as starting materials to give 2-[5-fluoro-6-(4-fluoro-benzylamino)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-3-(4-fluoro-phenyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (34 mg, 43.5%) as a red solid.

reactant | 3-(4-fluoro-phenyl)-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | FC1=CC=C(C=C1)C1=C(NC2=C1C(NCC2)=O)C=O | C14H11FN2O2
reactant | 5-fluoro-6-(4-fluoro-benzylamino)-1,3-dihydro-indol-2-one | FC=1C=C2CC(NC2=CC1NCC1=CC=C(C=C1)F)=O | C15H12F2N2O
product | 2-[5-fluoro-6-(4-fluoro-benzylamino)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-3-(4-fluoro-phenyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 34 mg, 43.5% | FC=1C=C2C(C(NC2=CC1NCC1=CC=C(C=C1)F)=O)=CC1=C(C=2C(NCCC2N1)=O)C1=CC=C(C=C1)F | C29H21F3N4O2
